US05442060
Preparation of 5-amino-4-dimethylamino-6-ethoxypyrimidine:
A mixture of 3 g of iron dust, 0.3 g of acetic acid and 2.5 ml of water was refluxed with heating for 30 minutes, allowed to cool at 80° C. and mixed with 10 ml of 2-propanol and gradually 2.33 g of 4-dimethylamino-6-ethoxy-5-nitropyrimidine. The resultant mixture was stirred at the same temperature for 1 hour, allowed to cool at 40° C., mixed with solution of 0.9 g of potassium carbonate in 1.5 ml of water and stirred for further 1 hour. Acetone was added to the mixture, which was filtered through Celite. The filtrate was concentrated in vacuo, and the residue was mixed with water and shaken with ether. The organic layer was washed with water and saturated saline in order, dried over anhydrous sodium sulfate and the solvent evaporated to give 1.80 g of the titled compound.

reactant | acetic acid | 0.3 g | C(C)(=O)O | C2H4O2
reactant | 2-propanol | 10 ml | CC(C)O | C3H8O
reactant | 4-dimethylamino-6-ethoxy-5-nitropyrimidine | 2.33 g | CN(C1=NC=NC(=C1[N+](=O)[O-])OCC)C | C8H12N4O3
reactant | potassium carbonate | 0.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 1.5 ml | O | H2O
catalyst | iron | 3 g | [Fe] | Fe
solvent | water | 2.5 ml | O | H2O
solvent | Acetone | CC(=O)C | C3H6O
product | 5-amino-4-dimethylamino-6-ethoxypyrimidine | 1.80 g | NC=1C(=NC=NC1OCC)N(C)C | C8H14N4O
